US06133258
A mixture of 1.416 g (8.99 mmol) of 4-chloronicotinic acid, 15 ml of thionyl chloride and two droplets of DMF was heated under reflux for 2 hours. The reaction mixture was allowed to cool, and then concentrated under reduced pressure to obtain 4-chloronicotinoyl chloride. The compound thus obtained was then suspended in a mixture of 10 ml of acetone and 10 ml of THF. The suspension thus obtained was then added dropwise to a solution of 753 mg of ammonium thiocyanate in 15 ml of acetone with stirring in 5 minutes. After the termination of dropwise addition, the reaction mixture was heated to a temperature of 40° C. with stirring for 6 minutes to obtain a mixture containing 4-chloronicotinoyl isothiocyanate. To the mixture thus obtained was then added dropwise a solution of 1.55 g of 4-chloro-N-methylaniline in 10 ml of acetone with stirring in 5 minutes. The reaction mixture was stirred at room temperature for 17 hours, concentrated to half the initial volume under reduced pressure, and then poured into about 500 ml of ice-water. The resulting crystal was collected by filtration, washed with water, and then dried under reduced pressure. The resulting crude product was purified through silica gel column chromatography (eluant: CHCl3 +1 to 3% methanol), and then recrystallized from ethanol to obtain 717 mg of 2-[N-(4-chlorophenyl)-N-methylamino]-4H-pyrido[3,4-e]-1,3-thiazin-4-one.

reactant | ammonium thiocyanate | 753 mg | [S-]C#N.[NH4+]
reactant | 4-chloronicotinoyl isothiocyanate | ClC1=CC=NC=C1C(=O)N=C=S | C7H3ClN2OS
reactant | 4-chloro-N-methylaniline | 1.55 g | ClC1=CC=C(NC)C=C1 | C7H8ClN
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-[N-(4-chlorophenyl)-N-methylamino]-4H-pyrido[3,4-e]-1,3-thiazin-4-one | 717 mg | ClC1=CC=C(C=C1)N(C)C=1SC2=C(C(N1)=O)C=NC=C2 | C14H10ClN3OS
